US07838675B2
i) N-(tert-butyl)-5-cyanofuran-2-sulfonamide
A solution of 5-formylfuran-2-sulfonic acid sodium salt (2.97 g), and hydroxylamine hydrochloride (1.05 g) in H2O (1.35 mL) and acetic acid (21 mL) was heated at 60° C. for 4 h. After cooling to room temperature the solvent was removed in vacuo. The crude residue was triturated with Et2O (3×50 mL) and dried under high vacuum to give a crude pale brown solid. A solution of this material (3.7 g) in phosphorusoxychloride (100 mL) was heated at 60° C. for 18 h. After cooling to room temperature the mixture was partitioned between ice-water (100 mL) and EtOAc (100 mL). The aqueous layer was separated and further extracted with EtOAc (2×100 mL). The combined organic phases were washed with brine (100 mL), dried (MgSO4), filtered and evaporated to dryness in vacuo to give a crude brown oil. To a solution of this crude oil (1.6 g) in DCM (85 mL) was added tert-butylamine (1.8 mL). After stirring at room temperature for 2 days the mixture was filtered through celite, washing with DCM (2×20 mL). The filtrate was evaporated to dryness in vacuo. The resulting crude material was purified by column chromatography using EtOAc/isohexane (2:8) as eluent to give the subtitle compound as a pale yellow oil. Yield: 1.0 g.

reactant | 5-formylfuran-2-sulfonic acid sodium salt | 2.97 g | [Na+].C(=O)C1=CC=C(O1)S(=O)(=O)[O-]
reactant | hydroxylamine hydrochloride | 1.05 g | Cl.NO
reactant | tert-butylamine | 1.8 mL | C(C)(C)(C)N | C4H11N
solvent | H2O | 1.35 mL | O | H2O
solvent | acetic acid | 21 mL | C(C)(=O)O | C2H4O2
solvent | phosphorusoxychloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | DCM | 85 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-butyl)-5-cyanofuran-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1OC(=CC1)C#N | C9H12N2O3S
